US04362738
N-{3-[4-Amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)-benzoyloxy]-propyl}-N'-{2-[2-[(2,6-dichlorophenyl)-amino]-phenyl-acetoxy]-ethyl}-piperazine
This compound was prepared from N-{3-[4-amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)-benzoyloxy]-propyl}-N'-(2-hydroxyethyl)-piperazine and 2-[(2,6-dichlorophenyl)amino]-phenyl-acetic acid with dicyclohexyl-carbodiimide, analogous to Example 4.

reactant | N-{3-[4-amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)-benzoyloxy]-propyl}-N'-(2-hydroxyethyl)-piperazine | NC1=C(C=C(C(=O)OCCCN2CCN(CC2)CCO)C=C1CN(CC)C1CCCCC1)Br | C25H41BrN4O3
reactant | 2-[(2,6-dichlorophenyl)amino]-phenyl-acetic acid | ClC1=C(C(=CC=C1)Cl)NC1=C(C=CC=C1)CC(=O)O | C14H11Cl2NO2
reactant | dicyclohexyl-carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | N-{3-[4-Amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)-benzoyloxy]-propyl}-N'-{2-[2-[(2,6-dichlorophenyl)-amino]-phenyl-acetoxy]-ethyl}-piperazine | NC1=C(C=C(C(=O)OCCCN2CCN(CC2)CCOC(CC2=C(C=CC=C2)NC2=C(C=CC=C2Cl)Cl)=O)C=C1CN(CC)C1CCCCC1)Br | C39H50BrCl2N5O4
